US05238942
2-Butyl-3-[(2'-(t-butoxycarbonyl)biphen-4-yl)methyl]quinazolin-4(3H)-one
The quinazolinone prepared as described in Example 17 was alkylated with 4-bromomethyl-2'-t-butoxycarbonyl-biphenyl. The product was purified by flash chromatography over silica gel eluting with 1% EtOAc/methylene chloride. 1H-NMR (300 MHz, CDCl3): 8.32 (m, 1H), 7.76 (m, 2H), 7.46 (m, 2H), 7.38 (m, 1H), 7.32-7.18 (m, 5H), 5.46 (bs, 2H), 2.79 (3 line m, 2H), 1.80 (m, 2H), 1.44 (m, 2H), 1.23 (s, 9H), 0.95 (t, 3H).

reactant | quinazolinone | C=1C=CC2=C(C1)C(=O)NC=N2 | C8H6N2O
reactant | 4-bromomethyl-2'-t-butoxycarbonyl-biphenyl | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C18H19BrO2
product | 2-Butyl-3-[(2'-(t-butoxycarbonyl)biphen-4-yl)methyl]quinazolin-4(3H)-one | C(CCC)C1=NC2=CC=CC=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C)=O | C30H32N2O3
